US04892924
Preparation of bis(3-phenyl-4-hydroxyphenyl)sulfone
To a mixture of 391 g (2.3 mol) of o-phenylphenol, 100 g (1 mol) of 98% by weight sulfuric acid, and 100 g of chlorobenzene was added 9.5 g (0.05 mol) of benzenesulfonic acid and heated with stirring. While the generated water was distilled away with chlorobenzene and the organic phase of the distillate was refluxed into the reaction vessel, the reaction was carried out for 10 hours. At the time when the distilled water amounted to 36 milliliters and the temperature in the reaction vessel rose to 165° C., the reaction mixture was cooled by adding 500 milliliters of xylene to precipitate crystals. The crystals were recrystallized from acetone-cyclohexane mixture solution to obtain 340 g of a product (yield: 85%). The melting point of the product was between 251° to 252° C. and the results of 1H-NMR (acetone d6) were as follows.

reactant | o-phenylphenol | 2.3 mol, 391 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | benzenesulfonic acid | 0.05 mol, 9.5 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | chlorobenzene | 100 g | ClC1=CC=CC=C1 | C6H5Cl
product | bis(3-phenyl-4-hydroxyphenyl)sulfone | 340 g, yield: 85% | C1(=CC=CC=C1)C=1C=C(C=CC1O)S(=O)(=O)C1=CC(=C(C=C1)O)C1=CC=CC=C1 | C24H18O4S
